US05750574
3-Ethoxy-4-(1,1-dimethyl-propylamino)-cyclobut-3-ene-1,2-dione
To a room temperature solution of 4.9 g (29 mmol) of 3,4-diethoxy-3-cyclobutene-1,2-dione and 50 mL of THF was added 2.5 g (34 mmol) of 1,1-dimethyl-propylamine. After stirring at room temperature overnight, the reaction mixture was evaporated to a yellow oil. Trituration with Et2O and filtration gave 6.2 g (20 mmol, a 100% yield) of the title compound as a white solid: mp: 78-80° C.; 1H NMR: (300 MHz, DMSO-d6): δ 0.91 and 1.47 (t, J=7.5 Hz, 3H, rotamers), 1.36-1.97 (m, 6H), 4.70-4.92 (m, 2H), 5.41 and 5.99 (brs, 1H, rotamers); IR (KBr, cm-1H): 3252w, 3181w, 3067w, 2968m, 2887m, 1788m, 1695s, 1603s, 1578s, 1500-1434brs, 1343s; MS (CI) m/z (relative intensity): 212 (M+ +H, 100); Anal. Calcd. for C1OH15 NO3 : C 62.54; H 8.11; N 6.63. Found: C, 62.54; H, 8.12; N, 6.52.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 29 mmol, 4.9 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 1,1-dimethyl-propylamine | 34 mmol, 2.5 g | CC(CC)(C)N | C5H13N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Ethoxy-4-(1,1-dimethyl-propylamino)-cyclobut-3-ene-1,2-dione | 100% yield | C(C)OC=1C(C(C1NC(CC)(C)C)=O)=O | C11H17NO3
